US07470679B2
Ethyl 3-formylpyridin-2-ylcarbamate
Diethyl pyrocarbonate (570 μL, 3.9 mmol) was added to a solution of 2-aminopyridine-3-carboxaldehyde (400 mg, 3.3 mmol) in benzene (20 mL). Mixture was warmed to 60° C. and held for 4 hours. Diethyl pyrocarbonate (1 mL, 6.8 mmol) was added to the mixture. Reaction was warmed to 60° C. and held for 1 hour. Mixture was cooled to room temperature. Diethyl pyrocarbonate (1 mL, 6.8 mmol) was added to the mixture. Reaction stirred at room temperature for 16 hours. Mixture was concentrated in vacuo. Silica gel chromatography afforded to title compound as white solid in 58% yield. MS m/e (M+H)+=195.1. solution of 20% phosgene in toluene (10 mL, 18.9 mmol) was added to the mixture with vigorous stirring. Reaction stirred vigorously at room temperature for 40 minutes. Reaction layers were partitioned. Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Residue was dissolved in toluene (30 mL). N-Phenylglycine ethyl ester was added to the mixture. Reaction was heated at reflux for 15 hours. Mixture was cooled to room temperature and diluted with ethyl acetate (50 mL). Mixture was washed successively with 1N hydrochloric acid (3×50 mL) and brine (30 mL). Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as pale yellow solid in 63% yield. 1H NMR (300 MHz, CDCl3): δ=7.47-7.26 (m, 5H), 4.30 (s, 1H), 4.16 (q, J=7.32, 2H), 3.88 (d, J=12.81, 2H), 3.81-3.69 (m, 1H), 2.89-2.70 (m, 2H), 1.83 (dd,J1=12.62, J2=3.11, 2H), 1.38 (s,9H),1.23 (t, J=7.14, 3H), 1.19-1.03 (m, 2).

reactant | Diethyl pyrocarbonate | 3.9 mmol, 570 μL | C(OCC)(=O)OC(=O)OCC | C6H10O5
reactant | 2-aminopyridine-3-carboxaldehyde | 3.3 mmol, 400 mg | NC1=NC=CC=C1C=O | C6H6N2O
reactant | Diethyl pyrocarbonate | 6.8 mmol, 1 mL | C(OCC)(=O)OC(=O)OCC | C6H10O5
reactant | Diethyl pyrocarbonate | 6.8 mmol, 1 mL | C(OCC)(=O)OC(=O)OCC | C6H10O5
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 3-formylpyridin-2-ylcarbamate | 58% yield | C(=O)C=1C(=NC=CC1)NC(OCC)=O | C9H10N2O3
